US05703109
1-[1-(4-cyanophenyl)4-(4-fluorophenyl)butyl]-1H-imidazole
1-(4-cyanobenzyl)-imidazole (1 g, 0.0054 mol) is dissolved into dry tetrahydrofuran (30 ml) and cooled to -70° C. n-BuLi in hexane (0.0054 mol) is added dropwise into the reaction mixture. After stirring for additional 30 min at -70° C. 3-(4-fluorophenyl)propyl bromide (1.5 g, 0,0069 mol) in THF (10 ml) is added to the mixture and stirring is continued for 2 hours. Then the mixture is allowed to warm to room temperature. Saturated aqueous ammonium chloride solution is added to the mixture, shaked and then the layers are separated. THF-phase is dried and evaporated to dryness. The residue is crystallized from isopropanol as hydrogen chloride salt. The filtrate is purified by flash chromatography.

reactant | 1-(4-cyanobenzyl)-imidazole | 0.0054 mol, 1 g | C(#N)C1=CC=C(CN2C=NC=C2)C=C1 | C11H9N3
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 0.0054 mol | CCCCCC | C6H14
reactant | 3-(4-fluorophenyl)propyl bromide | 0,0069 mol, 1.5 g | FC1=CC=C(C=C1)CCCBr | C9H10BrF
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-[1-(4-cyanophenyl)4-(4-fluorophenyl)butyl]-1H-imidazole | C(#N)C1=CC=C(C=C1)C(CCCC1=CC=C(C=C1)F)N1C=NC=C1 | C20H18FN3
